US06194409B1
A mixture of 19.0 g of 2-(benzylamino-methyl)-phenol and 75 mL of toluene was cooled to 0° C., and a solution of chloroacetyl chloride (7.8 mL) in 75 mL of toluene was slowly added while stirring. Stirring was continued for 16 h. Dry N,N-dimethylformamide (60 mL) was added and the solution was cooled to 0° C. In a nitrogen atmosphere 3.4 g of sodium hydride (95%; dispersion in mineral oil) were added in small portions and the mixture was allowed to stir at room temperature for 2 h. Water was added and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were dried (sodium sulfate) and the solvent was removed in vacuo yielding 12.4 g of 4-benzyl-4,5-dihydro-benzo[f][1,4]oxazepin-3-one. M.p. 95-97° C., EI-MS: 253 (M+).

reactant | 2-(benzylamino-methyl)-phenol | 19.0 g | C(C1=CC=CC=C1)NCC1=C(C=CC=C1)O | C14H15NO
reactant | chloroacetyl chloride | 7.8 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | 4-benzyl-4,5-dihydro-benzo[f][1,4]oxazepin-3-one | 12.4 g | C(C1=CC=CC=C1)N1C(COC2=C(C1)C=CC=C2)=O | C16H15NO2
